US08283354B2
(R)-1-(4-(2-(2-Fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one (406 mg, 0.898 mmol) was dissolved in anhydrous CH2Cl2 (3 mL) followed by the addition of Et2O (6 mL) under an N2 atmosphere. A 2.0 M HCl solution in Et2O (0.449 mL, 0.898 mmol) was added over a 2 minute period. The reaction solution changed from a clear yellow solution to a turbid white slurry. After complete addition of the HCl solution, the reaction was allowed to stir for an additional 15 minutes. The product was collected by vacuum filtration and dried under vacuum to obtain (R)-1-(4-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one hydrochloride as a white solid (403 mg, 92%). LC/MS: m/z 453.5 (M+H)+ at 2.44 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.20 (d, J=8.7 Hz, 1H), 7.71 (s, 1H), 7.60-7.60 (m, 1H), 7.50-7.44 (m, 1H), 6.99 (d, J=8.4 Hz, 1H), 6.87 (t, J=9.1 Hz, 1H), 4.36-4.33 (m, 1H), 4.25-3.67 (m, 8H), 2.57 (s, 3H), 1.83-1.71 (m, 1H), 1.49-1.35 (m, 2H), 0.91 (d, J=6.7 Hz, 6H).

reactant | (R)-1-(4-(2-(2-Fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one | 0.898 mmol, 406 mg | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)C)O)=O)C | C25H29FN4O3
reactant | Et2O | 6 mL | CCOCC | C4H10O
reactant | HCl | 2.0 M | Cl | ClH
reactant | Et2O | 0.898 mmol, 0.449 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one hydrochloride | 403 mg, 92% | Cl.FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)C)O)=O)C | InChI=1S/C25H29FN4O3.ClH/c1-15(2)13-21(32)25(33)30-11-9-29(10-12-30)24-17-8-7-16(3)14-19(17)27-23(28-24)22-18(26)5-4-6-20(22)31;/h4-8,14-15,21,31-32H,9-13H2,1-3H3;1H/t21-;/m1./s1
